US05716965
The crude TFA salt of ethyl 4-allyl-isonipecotate and ethyl bromoacetate (23.5 g, 141 mmol) were dissolved in toluene. To this solution was added anhydrous K2CO3 (70.7 g, 512 mmol), and the resulting suspension was warmed to 80° C. for 15 minutes. The reaction mixture was cooled down, and adjusted at pH=8.0 with dil.HCl. The resulting solution was worked-up by an ordinal procedure (extraction with ethyl acetate, washing with brine, drying over Na2SO4, concentration by evaporation) to provide 37.4 g of crude ethyl 4-allyl-N-ethoxycarbonylmethyl-isonipecotate, 56.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ethyl 4-allyl-isonipecotate | C(C=C)C1(CCNCC1)C(=O)OCC | C11H19NO2
reactant | ethyl bromoacetate | 141 mmol, 23.5 g | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 512 mmol, 70.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-allyl-N-ethoxycarbonylmethyl-isonipecotate | 37.4 g | C(C=C)C1(CCN(CC1)CC(=O)OCC)C(=O)OCC | C15H25NO4
